* C:\Users\stefa\OneDrive\Documenti\GitHub\SPICE\ES2M\sensore push pull resistivo half bridge.asc
* Generated by LTspice 24.1.5 for Windows.
X§U1 Vp Vn Vcc Vbb Vop level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 A 0 {R1}
R2 Vcc A {R2}
R3 Vcc B 10k
R4 B 0 10k
R5 Vp A {Rg}
R6 0 Vp {Rf}
R7 Vn B {Rg}
R8 Vop Vn {Rf}
V1 Vcc 0 15
V2 0 Vbb 15
.param R1 = 7.5k + 0.2*F
.param R2 = 7.5k - 0.2*F
.param F=100
.OP
.param Rg = 1k
.param Rf =500k
;.meas A v(Vp,Vn)
.lib UniversalOpAmp1.lib
.backanno
.end
