* C:\Users\stefa\Documents\GitHub\SPICE\FlyBack Converter\Flyback Converter  IRF510.asc
* Generated by LTspice 24.1.5 for Windows.
Co N003 0 10µ
Ro N003 0 50
V§Clock N005 0 PULSE(0 10 0 0.1u 0.1u 5u 10.2u)
Vi N001 0 12
D N002 N003 MBRS1100
L1 N004 N001 100µ
L2 N002 0 900µ
M1 N004 N005 0 0 IRF510
.model D D
.lib C:\Users\stefa\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\stefa\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10ms
.model MySwitch SW (Ron=0.1 Roff=100Meg Vt=1)
.model MyDiode D(Ron=0.1 Roff=100Meg Vfwd=0)
K1 L1  L2 1
.backanno
.end
